US07985753B2
7-Bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
7-Bromotetrahydroisoquinoline (1 mmol) is dissolved in CH2Cl2 (5 mL) and treated with 1.2 eq. of Boc2O in the presence of 0.1 eq. of DMAP. The reaction mixture is left overnight stirring overnight. The solution is washed with 1M HCl, aq. NaHCO3, and brine. The organic layer is dried over Na2SO4, filtered and evaporated. The product is purified by flash chromatography (eluent hexane:EtOAc=5:1).

reactant | 7-Bromotetrahydroisoquinoline | 1 mmol | BrC1=CC=C2CCNCC2=C1 | C9H10BrN
reactant | Boc2O | 1.2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-Bromo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)Br | C14H18BrNO2
